US07071201B2
(85-4-1) trans-1-(1-Ethyl-3-hydroxymethylpiperidin-4-yl)indoline
In a stream of nitrogen, lithium aluminum hydride (133 mg) was carefully added to dry tetrahydrofuran (5 ml) under ice cooling. To the resultant mixture was gradually added a solution of trans-1-(1-acetyl-3-ethoxycarbonylpiperidin-4-yl)indoline (850 mg) in dry tetrahydrofuran (5 ml) and the resulting mixture was stirred at 0° C. overnight. Under ice cooling and vigorous stirring, water (0.13 ml), a 5 N aqueous solution (0.13 ml) of sodium hydroxide and further water (0.4 ml) were successively added thereto. After allowing to warm the resultant mixture to room temperature, ethyl acetate (30 ml) was added thereto followed by drying over anhydrous sodium sulfate. After filtering and concentrating under reduced pressure, the resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system) to give the title compound (340 mg) as a pale yellow powder (yield: 49%).

reactant | lithium aluminum hydride | 133 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | trans-1-(1-acetyl-3-ethoxycarbonylpiperidin-4-yl)indoline | 850 mg | C(C)(=O)N1C[C@H]([C@@H](CC1)N1CCC2=CC=CC=C12)C(=O)OCC | C18H24N2O3
reactant | water | 0.13 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 0.4 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | trans-1-(1-Ethyl-3-hydroxymethylpiperidin-4-yl)indoline | 340 mg, yield: 49% | C(C)N1C[C@H]([C@@H](CC1)N1CCC2=CC=CC=C12)CO | C16H24N2O
